US06340759B1
Synthesis of 1-(4-ethylpiperazin-1-yl)-3-[3-cyano-4-(2-hydroxyethoxy)phenyl]isoquinoline
1-(4-Ethylpiperazin-1-yl)-3-[3-cyano-4-(2-benzyloxyethoxy)phenyl]isoquinoline (0.50 g) was dissolved in methanol (20 ml), followed by the hydrogenation in the presence of 10% palladium/carbon catalyst (0.05 g) at room temperature. After the catalyst was filtered off and washed with methanol, the resulting filtrate was concentrated, to give 0.28 g of the title compound as a pale yellow oil.

reactant | 1-(4-Ethylpiperazin-1-yl)-3-[3-cyano-4-(2-benzyloxyethoxy)phenyl]isoquinoline | 0.50 g | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=CC(=C(C=C1)OCCOCC1=CC=CC=C1)C#N | C31H32N4O2
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium/carbon | 0.05 g | [Pd] | Pd
product | 1-(4-ethylpiperazin-1-yl)-3-[3-cyano-4-(2-hydroxyethoxy)phenyl]isoquinoline | 0.28 g | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=CC(=C(C=C1)OCCO)C#N | C24H26N4O2
